US06482818B2
To 2-azido-N-(hydroxymethyl)-acetamide (650 mg, 5 mmol) at −10° C. oxalyl chloride (635 mg, 5 mmol) was added. After 10 min gas evolution had ceased. The mixture was diluted in CDCl3. NMR-Spectrum in CDCl3: 4.1 (s, 2H), 5.2 (d, 2H, J=10 Hz), 7.3 (broad signal, 1H) ppm. The NMR was consitent with 2-azido-N-(chloromethyl)-acetamide (yield 75%).

reactant | 2-azido-N-(hydroxymethyl)-acetamide | 5 mmol, 650 mg | N(=[N+]=[N-])CC(=O)NCO | C3H6N4O2
reactant | oxalyl chloride | 5 mmol, 635 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | 2-azido-N-(chloromethyl)-acetamide | yield 75% | N(=[N+]=[N-])CC(=O)NCCl | C3H5ClN4O
